US09034866B2
Synthesis of (R)-4,4-difluoro-9-(3-hydroxy-3-(pyridazin-3-yl)but-1-yn-1-yl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 9-iodo-4,4-difluoro-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide was reacted with (R)-2-(pyridazin-3-yl)but-3-yn-2-ol to give a mixture of titled compound after purification by prep HPLC.

reactant | 9-iodo-4,4-difluoro-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | IC1=CC2=C(OCC(C=3N2N=C(C3)C(=O)N)(F)F)C=C1 | C12H8F2IN3O2
reactant | (R)-2-(pyridazin-3-yl)but-3-yn-2-ol | N1=NC(=CC=C1)[C@@](C)(C#C)O | C8H8N2O
product | (R)-4,4-difluoro-9-(3-hydroxy-3-(pyridazin-3-yl)but-1-yn-1-yl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | FC1(C=2N(C3=C(OC1)C=CC(=C3)C#C[C@](C)(C=3N=NC=CC3)O)N=C(C2)C(=O)N)F | C20H15F2N5O3
